US05436240
Diethyl (formylamino)malonate (20.3 g, 0.1 mol) was added to a stirred solution of sodium ethoxide (250 mL of 0.4 M). 2-Nitrobenzyl chloride (17.2 g, 0.1 mol) was added, the mixture was refluxed for 2 hours and the solvent was then removed under reduced pressure. The material was partitioned between ethyl acetate and water, the ethyl acetate was separated and evaporated to give 40.3 g of crude product. The compound was crystallized from ethyl acetate:hexane to give 25.5 g of diethyl (formylamino)((2-nitrophenyl)methyl)propanedioate; mp 129°-132° C.

reactant | Diethyl (formylamino)malonate | 0.1 mol, 20.3 g | C(=O)NC(C(=O)OCC)C(=O)OCC | C8H13NO5
reactant | 2-Nitrobenzyl chloride | 0.1 mol, 17.2 g | [N+](=O)([O-])C1=C(CCl)C=CC=C1 | C7H6ClNO2
solvent | sodium ethoxide | 0.4 M, 250 mL | [O-]CC.[Na+]
product | diethyl (formylamino)((2-nitrophenyl)methyl)propanedioate | 25.5 g | C(=O)NC(C(=O)OCC)(C(=O)OCC)CC1=C(C=CC=C1)[N+](=O)[O-] | C15H18N2O7
